US04874775
N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide, hydrochloride
A 11 g. portion of 3-(2,4-difluorophenylaminomethyl)pyridine was dissolved in 50 ml. of dichloromethane, and 4.6 ml. of methanesulfonyl chloride was added. The mixture was stirred at ambient temperature overnight. A solid had formed, which was filtered from the mixture. The filtrate was partially evaporated under vacuum, producing more solid which was removed and discarded. The filtrate was chromatographed over silica gel, eluting first with dichloromethane, then with dichloromethane:ethyl acetate, and finally with dichloromethane:methanol. The product-containing fractions were combined and evaporated to produce 1.9 g. of the desired product in the free base form. That product was dissolved in dichloromethane, with stirring, and hydrogen chloride was bubbled through the solution. Some solid formed. The mixture was diluted with 250 ml. of diethyl ether and filtered. The solids were washed with diethyl ether and dried under vacuum to obtain 2 g. of the desired product, m.p. 203°-206°.

reactant | 3-(2,4-difluorophenylaminomethyl)pyridine | FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1 | C12H10F2N2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide, hydrochloride | Cl.FC1=C(C=CC(=C1)F)N(S(=O)(=O)C)CC=1C=NC=CC1 | InChI=1S/C13H12F2N2O2S.ClH/c1-20(18,19)17(9-10-3-2-6-16-8-10)13-5-4-11(14)7-12(13)15;/h2-8H,9H2,1H3;1H
